US07504401B2
[3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine (MW=385.26, 193 mg, 0.5 mmol) was placed into a 10 mL microwave reaction tube and placed under a nitrogen atmosphere. 3,4-(Methylenedioxy)phenylboronic acid (MW=165.94, 124 mg, 0.75 mmol), 2-(di-t-butylphosphino)biphenyl (FW 298.41, 15 mg, 0.05 mmol), tris(dibenzylideneacetone)dipalladium (FW 915.75, 13 mg, 0.025 mmol), cesium carbonate (FW 325.82, 326 mg, 1 mmol) and dry dioxane (3 mL) were added to the tube. After flushing with nitrogen, the reaction tube was sealed and heated at 110° C. for 16 h. After cooling, the reaction mixture was filtered through a short pad of silica gel, and the filtrate was concentrated. The residue was purified by silica gel column chromatography using 2% methanol in methylene chloride to give [3-benzo[1,3]dioxol-5-yl-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine.

reactant | [3-bromo-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine | 0.5 mmol, 193 mg | BrC=1C=C(C=C(C1)OCC1=CC=C(C=C1)OC)NC=1C=NC=CC1 | C19H17BrN2O2
reactant | 3,4-(Methylenedioxy)phenylboronic acid | 0.75 mmol, 124 mg | B(C1=CC2=C(C=C1)OCO2)(O)O | C7H7BO4
reactant | 2-(di-t-butylphosphino)biphenyl | 0.05 mmol, 15 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | cesium carbonate | 1 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.025 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | [3-benzo[1,3]dioxol-5-yl-5-(4-methoxy-benzyloxy)-phenyl]-pyridin-3-yl-amine | O1COC2=C1C=CC(=C2)C=2C=C(C=C(C2)OCC2=CC=C(C=C2)OC)NC=2C=NC=CC2 | C26H22N2O4
